US07727988B2
5-(3-methyl-2-thienyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione hydrochloride (E15)
5-(3-methyl-2-thienyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione was treated with a solution of 4N HCl in dioxane (200 μl) to give the title compound as a white solid.

reactant | 5-(3-methyl-2-thienyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione | CC1=C(SC=C1)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C24H24F3N3O2S
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 200 μl | O1CCOCC1 | C4H8O2
product | 5-(3-methyl-2-thienyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.CC1=C(SC=C1)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C24H24F3N3O2S.ClH/c1-15-7-10-33-20(15)19-13-30(22(32)28-21(19)31)9-2-8-29-12-18-11-23(18,14-29)16-3-5-17(6-4-16)24(25,26)27;/h3-7,10,13,18H,2,8-9,11-12,14H2,1H3,(H,28,31,32);1H/t18-,23+;/m0./s1
